US04859662
3-Methoxy-6-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-2-cyclohexen-1-one
n-Butyllithium (1.5M in hexane; 21 ml) was added at -78° under nitrogen to a stirred solution of diisopropylamine (4.6 ml) in dry THF (75 ml) and the solution was stirred at 0° for 30 min. The solutiowas cooled to -78° and added to a solution of 3-methoxy-2-cyclohexen-1 one (3.4 g) in dry THF (25 ml) at -78° under nitrogen with stirring. After stirring for 1 h at -78° and for 30 min. at 0° the solution was cooled to -78° and a solution of 4-(chloromethyl) -5-methyl-1-(triphenylmethyl)-1H-imidazole (10 g) in dry THF (100 ml) was added dropwise with stirring under nitrogen. The solution was stirred at -78° for 3 h and at 0° for 30 min., treated with 8% aqueous sodium bicarbonate (400 ml) and extracted with ethyl acetate (2×300 ml). The combined, dried organic extracts were evaporated to give an oil (ca. 13 g) which was purified by SPCC eluting with System A (967:30:3) to give the title compound (3.28 g), m.p. 145°-148°.

reactant | n-Butyllithium | 1.5M, 21 ml | C(CCC)[Li]
reactant | diisopropylamine | 4.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-methoxy-2-cyclohexen-1 one | 3.4 g | COC1=CC(CCC1)=O | C7H10O2
reactant | 4-(chloromethyl) -5-methyl-1-(triphenylmethyl)-1H-imidazole | 10 g | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
reactant | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Methoxy-6-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-2-cyclohexen-1-one | ca. 13 g | COC1=CC(C(CC1)CC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C31H30N2O2
